US08222416B2
A mixture of 4-bromo-3-fluoro-benzoic acid methyl ester (10 g, 43 mmol), bis(pinacolato)diboron (13.7 g, 54 mmol) and potassium acetate (12.7 g, 129 mmol) in dimethylsulfoxide (100 ml) was purged with argon, followed by addition of [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (3.5 g, 4.3 mmol). The mixture was heated at 80° C. for 3 h. After this time the mixture was cooled to 25° C., washed with water, extracted with ethyl acetate and concentrated. The resulting black oil was redissolved in ethyl acetate:hexanes 1:2 and filtered through a short pad of silica gel (silica gel from QingDao, 200-300 mesh, glass column from Shanghai SD company). The filterate was concentrated in vacuo to afford 3-fluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid methyl ester (12 g, 99%) as a solid which was used in the next step without further purification.

reactant | 4-bromo-3-fluoro-benzoic acid methyl ester | 43 mmol, 10 g | COC(C1=CC(=C(C=C1)Br)F)=O | C8H6BrFO2
reactant | bis(pinacolato)diboron | 54 mmol, 13.7 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 129 mmol, 12.7 g | C(C)(=O)[O-].[K+]
solvent | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 4.3 mmol, 3.5 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-fluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid methyl ester | 12 g, 99% | COC(C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)F)=O | C14H18BFO4
